US05708033
Ethyl acetate (5.9 g, 0.07 mol) was added dropwise to a stirred, chilled (dry ice-acetone bath) solution of lithium diisopropylamide (prepared by dropwise addition of a 2.5M solution of n-butyllithium (26.8 ml, 0.07 mol) in hexane to a chilled (dry ice-acetone bath) solution of diisopropylamine (6.8 g, 0.07 mol) in tetrahydrofuran (35 ml) ). After 30 min, a solution of 4-chloro-6-fluoro-1-indanone (12.4 g, 0.07 mol) in tetrahydrofuran (100 ml) was added dropwise and the mixture was stirred for 1 h (dry ice-acetone bath). A solution of ammonium chloride (10.6 g, 0.20 mol) in water (80 ml) was added and the mixture was allowed to come to ambient temperature. The aqueous phase was separated and extracted with diethyl ether. The combined organic phase was dried (sodium sulphate), filtered and concentrated in vacuo to give 19.5 g of crude ethyl 2-(4-chloro-6-fluoro-1-hydroxy-1-indanyl)acetate. Chromatography on silica gel with hexanes:ethyl acetate (8:2) as eluent gave 15.2 g (83%) of a yellow oil; NMR (DMSO-d6): a 7.13-7.28 (m, 2H), 5.55 (s, 1H), 3.98 (m, 2H), 2.79 (2m's, 4H), 2.50 (m, 1H), 2.11 (m, 1H). 1.08 (t, 3H).

reactant | Ethyl acetate | 0.07 mol, 5.9 g | C(C)(=O)OCC | C4H8O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 0.07 mol, 26.8 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.07 mol, 6.8 g | C(C)(C)NC(C)C | C6H15N
reactant | 4-chloro-6-fluoro-1-indanone | 0.07 mol, 12.4 g | ClC1=C2CCC(C2=CC(=C1)F)=O | C9H6ClFO
reactant | ammonium chloride | 0.20 mol, 10.6 g | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 80 ml | O | H2O
product | ethyl 2-(4-chloro-6-fluoro-1-hydroxy-1-indanyl)acetate | 19.5 g | ClC1=C2CCC(C2=CC(=C1)F)(O)CC(=O)OCC | C13H14ClFO3
